US08791132B2
5-[2-(9-Methyl-1,2,3,4,5,10c-hexahydro-3a,6,7-triaza-cyclopenta[c]fluoren-6-yl)-ethyl]-pyridine-2-carboxylic acid (400 mg, 1.063 mmol) was dissolved in 15 mL DCM and cooled at 0° C. Oxalyl chloride (669 mg, 5.315 mmol) and catalytic amount of DMF was added and the reaction mixture was stirred at RT for 1 h. The reaction was monitored by LCMS. The reaction mixture was concentrated and aqueous ammonia was added at 0° C. The reaction mixture was warmed to RT and stirred for 1 h. The reaction mixture was concentrated to obtain the crude product that was purified by reverse phase chromatography to obtain 2.5 mg of 5-[2-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6,7-triaza-cyclopenta[c]fluoren-6-yl)-ethyl]-pyridine-2-carboxylic acid amide as the TFA salt. 1H NMR TFA:—CD3OD: 8.2 (s, 2H), 7.95 (d, 1H), 7.8 (s, 1H), 7.6 (d, 1H), 5.0 (t, 1H), 4.6 (m, 2H), 3.62 (m, 1H), 3.5 (m, 2H), 3.3 (m, 3H), 2.8 (d, 1H), 2.63 (m, 2H), 2.4 (s, 3H), 2.2 (m, 2H), 2.1 (m, 1H). Separation by chiral HPLC provides enantiomers II-243a-b.

reactant | 5-[2-(9-Methyl-1,2,3,4,5,10c-hexahydro-3a,6,7-triaza-cyclopenta[c]fluoren-6-yl)-ethyl]-pyridine-2-carboxylic acid | 1.063 mmol, 400 mg | CC1=CC=2C=3C4N(CCC3N(C2N=C1)CCC=1C=CC(=NC1)C(=O)O)CCC4 | C22H24N4O2
reactant | Oxalyl chloride | 5.315 mmol, 669 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 5-[2-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6,7-triaza-cyclopenta[c]fluoren-6-yl)-ethyl]-pyridine-2-carboxylic acid amide | 2.5 mg | CC1=CC=2C=3C4N(CCC3N(C2N=C1)CCC=1C=CC(=NC1)C(=O)N)CCC4 | C22H25N5O
